### PR TITLE
[Merged by Bors] - refactor: rename `LinearAlgebra.FreeProductOfPowers` to `LinearAlgebra.FreeProduct.asPowers`, add simp shortcut to lift lemmas

### PR DESCRIPTION
**Pull request by robertmaxton42**
* Change names of `FreeProductOfPowers` to `FreeProduct.asPowers` and `equivPowerAlgebra` to `equivAsPowers`, in preparation for a `feat` adding API for the power algebra formulation.
* Add convenience "simp shortcut" attributes to some lift lemmas.

---

I made a complete hash of my environment trying to resolve merge conflicts with #15686, and eventually just gave up and decided to make an entirely new PR instead. As requested, I'm splitting this into two: one that establishes the name `asPowers` and applies the maintenance-y changes, and a followup that adds most of the lines. (I've decided to drop the performance opts entirely, as it no longer seems necessary and the explicit `simp_rw`s detract from maintainability.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 1]
```diff
@@ -124,7 +123,7 @@ abbrev PowerAlgebra := ⨁ (n : ℕ), TensorPower R n (⨁ i, A i)
 
 /-- The free tensor algebra and its representation as an infinite direct sum
 of tensor powers are (noncomputably) equivalent as `R`-algebras. -/
-@[reducible] noncomputable def powerAlgebra_equiv_freeAlgebra :
+@[reducible] noncomputable def equivPowerAlgebraFreeAlgebra :
     PowerAlgebra R A ≃ₐ[R] FreeTensorAlgebra R A :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:127]:
```suggestion
@[reducible] noncomputable def powerAlgebraEquivFreeTensorAlgebra :
    PowerAlgebra R A ≃ₐ[R] FreeTensorAlgebra R A :=
```
is the correct name. And could you please add a deprecation too? Thanks

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 2]
```diff
@@ -152,17 +151,22 @@ theorem rel_id (i : I) : rel R A (ι R <| lof R I A i 1) 1 := rel.id
...
 
 @[deprecated (since := "2024-12-07")]
-alias _root_.LinearAlgebra.FreeProduct_ofPowers := LinearAlgebra.FreeProductOfPowers
+alias _root_.LinearAlgebra.FreeProduct_ofPowers := asPowers
+@[deprecated (since := "2025-05-01")]
+alias _root_.LinearAlgebra.FreeProductOfPowers := asPowers
 
 /-- The `R`-algebra equivalence relating `FreeProduct` and `FreeProduct_ofPowers` -/
-noncomputable def equivPowerAlgebra : FreeProductOfPowers R A ≃ₐ[R] FreeProduct R A :=
+noncomputable def equivAsPowers : asPowers R A ≃ₐ[R] FreeProduct R A :=
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:162]:
```suggestion
noncomputable def asPowersEquiv : asPowers R A ≃ₐ[R] FreeProduct R A :=
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 3]
```diff
@@ -238,10 +242,13 @@ to a unique arrow `π` from `FreeProduct R A` such that  `π ∘ ι i = maps i`.
 /-- Universal property of the free product of algebras, property:
 for every `R`-algebra `B`, every family of maps `maps : (i : I) → (A i →ₐ[R] B)` lifts
 to a unique arrow `π` from `FreeProduct R A` such that  `π ∘ ι i = maps i`. -/
-theorem lift_comp_ι : (lift R A maps) ∘ₐ (ι R A i) = maps := by
+@[simp↓] theorem lift_comp_ι : (lift R A maps) ∘ₐ (ι R A i) = maps := by
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:245]: While you're touching this,
```suggestion
@[simp↓] theorem lift_comp_ι : lift R A maps ∘ₐ ι R A i = maps := by
```

File: Mathlib/LinearAlgebra/FreeProduct/Basic.lean [hunk 4]
```diff
@@ -152,17 +154,22 @@ theorem rel_id (i : I) : rel R A (ι R <| lof R I A i 1) 1 := rel.id
...
-@[reducible] def _root_.LinearAlgebra.FreeProductOfPowers := RingQuot <| FreeProduct.rel' R A
+@[reducible] def asPowers := RingQuot <| FreeProduct.rel' R A
 
 @[deprecated (since := "2024-12-07")]
-alias _root_.LinearAlgebra.FreeProduct_ofPowers := LinearAlgebra.FreeProductOfPowers
+alias _root_.LinearAlgebra.FreeProduct_ofPowers := asPowers
+@[deprecated (since := "2025-05-01")]
+alias _root_.LinearAlgebra.FreeProductOfPowers := asPowers
 
 /-- The `R`-algebra equivalence relating `FreeProduct` and `FreeProduct_ofPowers` -/
```
Comment (YaelDillies) [inline Mathlib/LinearAlgebra/FreeProduct/Basic.lean:164]: This docstring is outdated
```suggestion
/-- The `R`-algebra equivalence relating `FreeProduct` and `FreeProduct.asPowers`. -/
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer delegate

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
